US04144338
A solution of 2-(2-diisopropylaminoethylamino)-4,6-dimethylpyrimidine (12.5 g., 0.05 mole) in 50 ml of benzene is added to a solution of phenyl chloroformate in 50 ml of benzene. After 72 hours, the solid product is collected and recrystallized from acetone to give phenyl N-(2-diisopropylaminoethyl)-N-(4,6-dimethyl-2-pyrimidinyl)carbamate hydrochloride melting at 190°-202° C.

reactant | 2-(2-diisopropylaminoethylamino)-4,6-dimethylpyrimidine | 0.05 mole, 12.5 g | C(C)(C)N(CCNC1=NC(=CC(=N1)C)C)C(C)C | C14H26N4
reactant | phenyl chloroformate | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | phenyl N-(2-diisopropylaminoethyl)-N-(4,6-dimethyl-2-pyrimidinyl)carbamate hydrochloride | Cl.C(C)(C)N(CCN(C(OC1=CC=CC=C1)=O)C1=NC(=CC(=N1)C)C)C(C)C | InChI=1S/C21H30N4O2.ClH/c1-15(2)24(16(3)4)12-13-25(20-22-17(5)14-18(6)23-20)21(26)27-19-10-8-7-9-11-19;/h7-11,14-16H,12-13H2,1-6H3;1H
